US08497265B2
Step1: Benzyl 3-((3-(4-Chloropiperidin-4-yl)Pyrazin-2-yl)Oxy)Azetidine-1-Carboxylate Trihydrochloride Salt
To a stirred solution of tert-butyl 4-(3-(1-(benzyloxycarbonyl) azetidin-3-yloxy)pyrazin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (see PREPARATION P28.3; 0.72 g, 1.543 mmol) in DCM (5 ml) was added hydrogen chloride (3.09 mL, 12.35 mmol). The reaction mixture was stirred for 3 hours, concentrated to dryness and used in the next step. The mixture also contained 1:1 ratio of benzyl 3-((3-(1,2,3,6-tetrahydropyridin-4-yl)pyrazin-2-yl)oxy)azetidine-1-carboxylate trihydrochloride salt. MS (m+2): 404.

reactant | tert-butyl 4-(3-(1-(benzyloxycarbonyl) azetidin-3-yloxy)pyrazin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.543 mmol, 0.72 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)OC=1C(=NC=CN1)C1=CCN(CC1)C(=O)OC(C)(C)C | C25H30N4O5
reactant | hydrogen chloride | 12.35 mmol, 3.09 mL | Cl | ClH
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 3-((3-(4-Chloropiperidin-4-yl)Pyrazin-2-yl)Oxy)Azetidine-1-Carboxylate Trihydrochloride Salt | Cl.Cl.Cl.ClC1(CCNCC1)C=1C(=NC=CN1)OC1CN(C1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C20H23ClN4O3.3ClH/c21-20(6-8-22-9-7-20)17-18(24-11-10-23-17)28-16-12-25(13-16)19(26)27-14-15-4-2-1-3-5-15;;;/h1-5,10-11,16,22H,6-9,12-14H2;3*1H
